.title kicad schematic

.include LF356.sub
* u1 vin plot_v1
c1 gnd net-_c1-pad2_ 0.1u
r1 net-_r1-pad1_ gnd 10k
vv2 gnd net-_c1-pad2_  dc -12
vv1 vin gnd sin(0 200m 1k)
x1 net-_r3-pad1_ net-_r1-pad1_ vin net-_c1-pad2_ net-_r3-pad2_ vout net-_c2-pad1_ unconnected-_x1-pad8_ LF356
c2 net-_c2-pad1_ gnd 0.1u
r3 net-_r3-pad1_ net-_r3-pad2_ 10k
r2 net-_r1-pad1_ vout 40k
* u2 vout plot_v1
vv3 net-_c2-pad1_ gnd  dc 12
.tran 1e-06 5e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(vin)
plot v(vout)
.endc
.end
